US09303045B2
Step 1: tert-Butyl 5-fluoro-1-(methylsulfonyl)-1H-indole-3-carboxylate
To a solution of tert-butyl 5-fluoro-1H-indole-3-carboxylate (500 mg, 2.125 mmol) and triethylamine (1721 mg, 17.00 mmol) in THF (5 ml) was added methanesulfonyl chloride (0.658 ml, 8.50 mmol). The mixture was stirred at RT for 2 h. The reaction mixture was then poured into water and extracted twice with Et2O. The organic extracts were combined, filtered through MgSO4, concentrated, and purified by column chromatography (SiO2; EtOAc/hex) to afford the title compound as a white solid.

reactant | tert-butyl 5-fluoro-1H-indole-3-carboxylate | 2.125 mmol, 500 mg | FC=1C=C2C(=CNC2=CC1)C(=O)OC(C)(C)C | C13H14FNO2
reactant | triethylamine | 17.00 mmol, 1721 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 8.50 mmol, 0.658 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | tert-Butyl 5-fluoro-1-(methylsulfonyl)-1H-indole-3-carboxylate | FC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C)C(=O)OC(C)(C)C | C14H16FNO4S
